US07576115B2
Synthesis of 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-(1-hydroxyethyl)thiophene
3.0 M Ethyl ether solution (2.0 mL, 6.0 mmol) of methylmagnesium bromide was added dropwise to 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-formylthiophene (0.77 g, 2.5 mmol) in THF (2.5 mL) under cooling with ice, and the reaction solution was stirred for 1 hour under cooling with ice. After addition of saturated aqueous ammonium chloride, the reaction solution was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (n-hexane/ethyl acetate=9/1) to give the desired product as a pale yellow oil (0.64 g, yield 80%).

reactant | Ethyl ether | 6.0 mmol, 3.0 M, 2.0 mL | C(C)OCC | C4H10O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-formylthiophene | 2.5 mmol, 0.77 g | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1OCOC)C=O | C17H20O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-(4-t-butylphenyl)-3-methoxymethyloxy-4-(1-hydroxyethyl)thiophene | 0.64 g, yield 80% | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1OCOC)C(C)O | C18H24O3S
